US05344843
A solution of 4-[3-(1,2-dihydro-2-oxo-1-quinolinyl)propoxy]-alpha-oxobenzeneacetic acid ethyl ester (0.5 g) in hot methanol (50 mL) was treated with sodium carbonate (0.14 g) in water (1.5 mL), and the reaction was stirred at room temperature for 5 hours. After the methanol was removed in vacuo, dichloromethane and water were added and the rnixmre was acidified with 3N hydrochloric acid. The precipitated solid was faltered off, dried and then crystallized from ethyl acetate-tetrahydrofuran to afford 0.337 g of 4-[3-(1,2-dihydro-2-oxo-1-quinolinyl)propoxy]-alpha-oxobenzeneacetic acid, mp 183°-186° C.

reactant | 4-[3-(1,2-dihydro-2-oxo-1-quinolinyl)propoxy]-alpha-oxobenzeneacetic acid ethyl ester | 0.5 g | C(C)OC(C(C1=CC=C(C=C1)OCCCN1C(C=CC2=CC=CC=C12)=O)=O)=O | C22H21NO5
reactant | sodium carbonate | 0.14 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | 50 mL | CO | CH4O
solvent | water | 1.5 mL | O | H2O
product | 4-[3-(1,2-dihydro-2-oxo-1-quinolinyl)propoxy]-alpha-oxobenzeneacetic acid | 0.337 g | O=C1N(C2=CC=CC=C2C=C1)CCCOC1=CC=C(C=C1)C(C(=O)O)=O | C20H17NO5
